US07749997B2
Methyl (4-phenylbicyclo[2.2.2]oct-1-yl)acetate
A freshly prepared solution of hydrogen chloride in methanol (˜3 M; ˜2 mL, ˜6 mmol) was added to a solution of (4-Phenylbicyclo[2.2.2]oct-1-yl)acetic acid (0.3 g) in methanol (3 mL) under a calcium chloride guard tube and the mixture stirred for 4 h. The solvent was evaporated to leave the title compound as an off white solid (0.25 g; 78%).

reactant | hydrogen chloride | Cl | ClH
reactant | (4-Phenylbicyclo[2.2.2]oct-1-yl)acetic acid | 0.3 g | C1(=CC=CC=C1)C12CCC(CC1)(CC2)CC(=O)O | C16H20O2
reactant | methanol | 3 mL | CO | CH4O
reactant | methanol | ˜6 mmol, ˜3 M, ˜2 mL | CO | CH4O
product | Methyl (4-phenylbicyclo[2.2.2]oct-1-yl)acetate | C1(=CC=CC=C1)C12CCC(CC1)(CC2)CC(=O)OC | C17H22O2
